US07582625B2
(R)-2-(4-carboxymethoxy-1,4′-bipiperidinyl-1′-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 15 mg (0.63 mmol) LiOH in 5 mL water was added to a solution of 180 mg (0.25 mmol) (R)-2-(4-ethoxycarbonylmethoxy-1,4′-bipiperidinyl-1′-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 15 mL THF and the reaction mixture was stirred for 4 h at RT. 0.66 mL of 1 M HCl were added and the mixture was concentrated by evaporation i. vac. The residue was taken up in a little DCM/MeOH (7:3) and filtered through silica gel. The filtrate was concentrated by evaporation i. vac., the residue was triturated with diethyl ether, suction filtered and dried.

reactant | LiOH | 0.63 mmol, 15 mg | [Li+].[OH-]
reactant | (R)-2-(4-ethoxycarbonylmethoxy-1,4′-bipiperidinyl-1′-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.25 mmol, 180 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCC(CC1)OCC(=O)OCC)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C40H55N5O8
reactant | HCl | 1 M, 0.66 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (R)-2-(4-carboxymethoxy-1,4′-bipiperidinyl-1′-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCC(CC1)OCC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C38H51N5O8
